US08278336B2
6′-(5-Fluoro-2,3-dihydro-indole-1-carbonyl)-4-(2-oxo-2,3-dihydro-imidazo[4,5-b]pyridin-1-yl)-3,4,5,6-tetrahydro-2H,1′H-[1,4′]bipyridinyl-2′-one
A well stirred mixture of 40 mg (0.082 mmol) 1-[6′-(5-fluoro-2,3-dihydro-indole-1-carbonyl)-2′-methoxy-3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-4-yl]-1,3-dihydro-imidazo-[4,5-b]pyridin-2-one and 0.020 g (1.7 mmol) pyridine hydrochloride was kept in a melt for 2 min using a hot air blower. After the reaction had cooled the mixture was dissolved in DMF and purified by preparative HPLC. The product-containing fractions were combined and lyophilised.

reactant | 1-[6′-(5-fluoro-2,3-dihydro-indole-1-carbonyl)-2′-methoxy-3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-4-yl]-1,3-dihydro-imidazo-[4,5-b]pyridin-2-one | 0.082 mmol, 40 mg | FC=1C=C2CCN(C2=CC1)C(=O)C1=CC(=CC(=N1)OC)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C26H25FN6O3
reactant | pyridine hydrochloride | 1.7 mmol, 0.020 g | Cl.N1=CC=CC=C1
solvent | DMF | CN(C)C=O | C3H7NO
product | 6′-(5-Fluoro-2,3-dihydro-indole-1-carbonyl)-4-(2-oxo-2,3-dihydro-imidazo[4,5-b]pyridin-1-yl)-3,4,5,6-tetrahydro-2H,1′H-[1,4′]bipyridinyl-2′-one | FC=1C=C2CCN(C2=CC1)C(=O)C1=CC(=CC(N1)=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C25H23FN6O3
